US04447425
Jones reagent (21.0 ml; 8N) was added dropwise to a stirred suspension of 16β-(1-piperidinyl)-5α-androstane-2β,17β-diol 17-acetate (14.0 g) in acetone (250 ml), cooled to approx. 5° C. in an ice-bath. When the addition was complete, the cooling bath was removed and stirring was continued for 3 h. Saturated sodium carbonate solution (100 ml) was added to give pH approx. 9 and the product was extracted into dichloromethane (150 ml). The organic layer was separated, washed neutral with water (3×150 ml) and dried (MgSO4). The solution was concentrated while ether was added to afford 17β-acetyloxy-16β-(1-piperidinyl)-5α-androstan-2-one (12.2 g) m.p. 165°-167° C.; [α]D +44.6° (c 0.45 in CHCl3).

reactant | Jones reagent | 8N, 21.0 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | 16β-(1-piperidinyl)-5α-androstane-2β,17β-diol 17-acetate | 14.0 g | C(C)(=O)O[C@@H]1[C@]2(C)[C@@H](C[C@@H]1N1CCCCC1)[C@@H]1CC[C@H]3CC[C@H](C[C@]3(C)[C@H]1CC2)O | C26H43NO3
solvent | acetone | 250 ml | CC(=O)C | C3H6O
product | 17β-acetyloxy-16β-(1-piperidinyl)-5α-androstan-2-one | 12.2 g | C(C)(=O)O[C@@H]1[C@]2(C)[C@@H](C[C@@H]1N1CCCCC1)[C@@H]1CC[C@H]3CCC(C[C@]3(C)[C@H]1CC2)=O | C26H41NO3
